US05360577
A solution of 0.8 g of (S)-2-(4-formylphenyl)-4-isopropyl-2-oxazoline and 1 g of dimethyl L(+)-tartrate in 50 ml of toluene is treated with 0.1 g of toluene-4-sulphonic acid. The mixture is heated to boiling for 2.5 hours and the water formed is distilled off simultaneously. Then, 4 drops of triethylamine are added to the reaction mixture. After cooling the mixture is washed with 20 ml of 1N sodium hydrogen carbonate solution and twice with 20 ml of water each time, dried over sodium sulphate and concentrated. Chromatography of the residue on silica gel with toluene/ethyl acetate (vol. 1:1) and recrystallization from ethanol gives pure dimethyl (4R,5R)-2-(4-[(S)-4-isopropyl-2-oxazolinyl]phenyl)-1,3-dioxolane-4,5-dicarboxylate

reactant | (S)-2-(4-formylphenyl)-4-isopropyl-2-oxazoline | 0.8 g | C(=O)C1=CC=C(C=C1)C=1OC[C@@H](N1)C(C)C | C13H15NO2
reactant | dimethyl L(+)-tartrate | 1 g | C(=O)(OC)[C@H](O)[C@@H](O)C(=O)OC | C6H10O6
reactant | toluene-4-sulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl (4R,5R)-2-(4-[(S)-4-isopropyl-2-oxazolinyl]phenyl)-1,3-dioxolane-4,5-dicarboxylate | C(C)(C)[C@@H]1N=C(OC1)C1=CC=C(C=C1)C1O[C@H]([C@@H](O1)C(=O)OC)C(=O)OC | C19H23NO7
